US06451814B1
1-[4-(4-{2-[(2S)-2-Hydroxy-3-(4-hydroxy-phenoxy)-propylamino]-ethyl}-phenylamino)-piperidine-1-carbonyl]-piperidine-4-carboxylic Acid Ethyl Ester
Ethyl 1-({4-[4-(2-aminoethyl)anilino]-1-piperidinyl}carbonyl)-4-piperidinecarboxylate formate (0.312 g, 0.696 mmol) was reacted with tert-butyl-(4-oxiranylmethoxy-phenoxy)-diphenyl-silane (0.20 g, 0.495 mmol) according to Procedure G (eluant: 20:1 chloroform-methanol) to give the title compound (0.17 g, 0.21 mmol).

reactant | Ethyl 1-({4-[4-(2-aminoethyl)anilino]-1-piperidinyl}carbonyl)-4-piperidinecarboxylate formate | 0.696 mmol, 0.312 g | C(=O)O.NCCC1=CC=C(NC2CCN(CC2)C(=O)N2CCC(CC2)C(=O)OCC)C=C1
reactant | tert-butyl-(4-oxiranylmethoxy-phenoxy)-diphenyl-silane | 0.495 mmol, 0.20 g | C(C)(C)(C)[Si](C1=CC=CC=C1)(C1=CC=CC=C1)OC1=CC=C(C=C1)OCC1OC1 | C25H28O3Si
solvent | chloroform methanol | C(Cl)(Cl)Cl.CO
product | 1-[4-(4-{2-[(2S)-2-Hydroxy-3-(4-hydroxy-phenoxy)-propylamino]-ethyl}-phenylamino)-piperidine-1-carbonyl]-piperidine-4-carboxylic Acid Ethyl Ester | 0.21 mmol, 0.17 g | C(C)OC(=O)C1CCN(CC1)C(=O)N1CCC(CC1)NC1=CC=C(C=C1)CCNC[C@@H](COC1=CC=C(C=C1)O)O | C31H44N4O6
